US08304446B2
N1-[(3-{[3-{[(5-Chloro-2-thienyl)sulfonyl]amino}-4-(methyloxy)-1H-indazol-1-yl]methyl}phenyl)methyl]-N2,2-dimethylalaninamide formate
To a solution of N-Boc-N,2-dimethylalanine (174 mg, 0.801 mmol) in anhydrous THF (8 mL) was added dropwise at room temperature 1-chloro-N,N,2-trimethylpropenylamine (0.106 mL, 0.801 mmol) and the resulting mixture was stirred for 30 min. N-[1-{[3-(aminomethyl)phenyl]methyl}-4-(methyloxy)-1H-indazol-3-yl]-5-chloro-2-thiophenesulfonamide hydrochloride (for a preparation see Intermediate 4) (200 mg, 0.4 mmol), followed by N,N-diisopropylethylamine (0.209 mL, 1.20 mmol) were then added and the reaction mixture was stirred at room temperature for 90 min (heterogeneous reaction). A further 8 mL of anhydrous tetrahydrofuran and 70 μL of N,N-diisopropylethylamine was added in order to try to improve solubility. The reaction mixture was stirred at room temperature for 30 min and then evaporated in-vacuo and partitioned between saturated aqueous sodium hydrogen carbonate solution and ethyl acetate. The organic layer was separated, passed through a hydrophobic frit and evaporated in-vacuo to yield a cream oil. The residue (286 mg) was dissolved in MeOH:DMSO (1:1) (3×1 mL) and purified by MDAP on (Sunfire C18 column 150 mm×30 mm i.d. 5 μm packing diameter at ambient temperature) eluting with solvents A/B (A: 0.1% v/v solution of formic acid in water, B: 0.1% v/v solution of formic acid in acetonitrile) over 25 min. Appropriate fractions were combined and evaporated in-vacuo to yield the title compound as a clear oil (211 mg, 87%). LCMS (System B) RT=1.75 min, ES+ve m/z 562/564 (M+H)+.

reactant | N-Boc-N,2-dimethylalanine | 0.801 mmol, 174 mg | C(=O)(OC(C)(C)C)N(C(C)(C(=O)O)C)C | C10H19NO4
reactant | 1-chloro-N,N,2-trimethylpropenylamine | 0.801 mmol, 0.106 mL | ClC(=C(C)C)N(C)C | C6H12ClN
reactant | N-[1-{[3-(aminomethyl)phenyl]methyl}-4-(methyloxy)-1H-indazol-3-yl]-5-chloro-2-thiophenesulfonamide hydrochloride | Cl.NCC=1C=C(C=CC1)CN1N=C(C2=C(C=CC=C12)OC)NS(=O)(=O)C=1SC(=CC1)Cl
reactant | N,N-diisopropylethylamine | 1.20 mmol, 0.209 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N-diisopropylethylamine | 70 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | MeOH DMSO | 1 mL | CO.CS(=O)C
solvent | THF | 8 mL | O1CCCC1 | C4H8O
product | N1-[(3-{[3-{[(5-Chloro-2-thienyl)sulfonyl]amino}-4-(methyloxy)-1H-indazol-1-yl]methyl}phenyl)methyl]-N2,2-dimethylalaninamide formate | 211 mg, 87% | C(=O)O.ClC1=CC=C(S1)S(=O)(=O)NC1=NN(C2=CC=CC(=C12)OC)CC=1C=C(C=CC1)CNC(C(NC)(C)C)=O | InChI=1S/C25H28ClN5O4S2.CH2O2/c1-25(2,27-3)24(32)28-14-16-7-5-8-17(13-16)15-31-18-9-6-10-19(35-4)22(18)23(29-31)30-37(33,34)21-12-11-20(26)36-21;2-1-3/h5-13,27H,14-15H2,1-4H3,(H,28,32)(H,29,30);1H,(H,2,3)
